US05834468
4-[N-(2-(Phenethyl)benzyl)-N-ethylamino]benzoic acid (1.5 g), oxalyl chloride (0.43 ml), DMF (0.1 ml) and CH2Cl2 (50 ml) were stirred together for 2 hours. The solvent was evaporated and the residue re-dissolved in dichloromethane (100 ml). This was added to a solution of propylamine (0.35 ml) in dichloromethane (10 ml) at 0° C. The resulting mixture was stirred for 2 hours at ambient temperature, filtered and the filtrate purified by MPLC, eluting with ethyl acetate to give a gum. The gum was purified by crystallisation from diethyl ether/iso-hexane to give N-propyl-4-[N-ethyl-N-(2-(phenethyl)benzyl)-amino]benzamide e (0.31 g) as a white solid, (mpt. 91°/93° C.).

reactant | 4-[N-(2-(Phenethyl)benzyl)-N-ethylamino]benzoic acid | 1.5 g | C(CC1=CC=CC=C1)C1=C(CN(CC)C2=CC=C(C(=O)O)C=C2)C=CC=C1 | C24H25NO2
reactant | oxalyl chloride | 0.43 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | N-propyl-4-[N-ethyl-N-(2-(phenethyl)benzyl)-amino]benzamide | C(CC)NC(C1=CC=C(C=C1)N(CC1=C(C=CC=C1)CCC1=CC=CC=C1)CC)=O | C27H32N2O
